US04122255
B. N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methylene]-benzeneethanamine
2-[3-(4-Morpholinyl)propoxy]benzaldehyde (31.7g) is reacted with 15.8g of phenethylamine in 130 ml of toluene following the procedure described in Example 1A to yield 34.3g of product as an oil, boiling point 215°-219° C at 0.2-0.3 mm of Hg.

reactant | 2-[3-(4-Morpholinyl)propoxy]benzaldehyde | 31.7g | N1(CCOCC1)CCCOC1=C(C=O)C=CC=C1 | C14H19NO3
reactant | phenethylamine | 15.8g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methylene]-benzeneethanamine | 34.3g | N1(CCOCC1)CCCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1 | C22H28N2O2
